US09376422B2
Step 1: Synthesis of methyl 5-bromo-2-methyl-3-[methyl(oxan-4-yl)amino]benzoate
To a stirred solution of methyl 5-bromo-2-methyl-3-[(oxan-4-yl)amino]benzoate (1.20 g, 3.66 mmol) in DCE (10 ml) under a nitrogen atmosphere was added paraformaldehyde (659 mg, 21.9 mmol) followed by acetic acid (1.26 ml, 21.9 mmol) and the reaction was left to stir for 5 min before the addition of sodium triacetoxyborohydride (4.65 g, 21.9 mmol). The reaction was stirred for 16 h at room temperature after which time additional paraformaldehyde (325 mg, 10.8 mmol) and sodium triacetoxyborohydride (2.40 g, 11.3 mmol) was added and the reaction was stirred for a further 18 h whereupon distilled water (30 ml) was added and solid NaHCO3 was added until the aqueous phase was pH7 and the phases were separated, the aqueous phase was washed with EtOAc (3×50 ml), the combined organics were then washed with brine (50 ml), dried using Na2SO4, filtered and evaporated. The crude residue was purified using FCC over silica eluting with 0-10% EtOAc in heptane to afford the title compound as a colourless oil (728 mg, 52%). LC-MS 87%, m/z=341.9/343.9, 1H NMR (500 MHz, Chloroform-d) δ 7.60 (d, J=2.0 Hz, 1H), 7.25 (d, J=1.9 Hz, 1H), 3.92 (d, J=11.1 Hz, 2H), 3.82 (s, 3H), 3.27 (td, J=11.5, 2.0 Hz, 2H), 2.94-2.79 (m, 1H), 2.57 (s, 3H), 2.36 (s, 3H), 1.74-1.52 (m, 4H).

reactant | methyl 5-bromo-2-methyl-3-[(oxan-4-yl)amino]benzoate | 3.66 mmol, 1.20 g | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCOCC1 | C14H18BrNO3
reactant | paraformaldehyde | 21.9 mmol, 659 mg | C=O | CH2O
reactant | acetic acid | 21.9 mmol, 1.26 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 21.9 mmol, 4.65 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | paraformaldehyde | 10.8 mmol, 325 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 11.3 mmol, 2.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 10 ml | ClCCCl | C2H4Cl2
product | methyl 5-bromo-2-methyl-3-[methyl(oxan-4-yl)amino]benzoate | 728 mg, 52% | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCOCC1)C | C15H20BrNO3
